US06518267B1
a) N-(Piperazin-1-yl)carbonyl-L-leucine
A mixture of 1-(tert-butoxycarbonyl)piperazine (60 mg, 0.036 mmol) and N-(4-nitrophenoxycarbonyl)-L-leucine tert-butyl ester (128 mg, 0.36 mmol) in DMF was stirred at 60° C. for 1 h. concentrated in vacuo and the residue treated with 4 M HCl in dioxane (5 ml) for 16 h. The mixture was concentrated in vacuo, azeotroped with toluene and treated with 4 M HCl in dioxane (5 ml) for 16 h. The mixture was concentrated in vacuo to afford the title compound.

reactant | 1-(tert-butoxycarbonyl)piperazine | 0.036 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-(4-nitrophenoxycarbonyl)-L-leucine tert-butyl ester | 0.36 mmol, 128 mg | C(C)(C)(C)OC([C@@H](NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)=O | C17H24N2O6
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(Piperazin-1-yl)carbonyl-L-leucine | N1(CCNCC1)C(=O)N[C@@H](CC(C)C)C(=O)O | C11H21N3O3
